US06583126B2
Step 1 4-[2-(4-fluorophenyl)-2-oxoethyl]benzoic acid
To a solution of methyl 4-[2-(4-fluorophenyl)-2-oxoethyl]benzoate (1.00 g, 3.67 mmol) dissoved in ethanol (18 ml) was added sodium hydroxide 2M (18 ml). The mixture was refluxed for 15 minutes The reaction was cooled and evaporated to removed ethanol. The aqueous residue was acidified with HCl 2 M and extracted with ethyl acetate. The organic fraction was dried over sodium sulfate, filtered and evaporated to give (0.9 g) of the title compound.

reactant | methyl 4-[2-(4-fluorophenyl)-2-oxoethyl]benzoate | 3.67 mmol, 1.00 g | FC1=CC=C(C=C1)C(CC1=CC=C(C(=O)OC)C=C1)=O | C16H13FO3
reactant | sodium hydroxide | 2M, 18 ml | [OH-].[Na+]
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 4-[2-(4-fluorophenyl)-2-oxoethyl]benzoic acid | 0.9 g | FC1=CC=C(C=C1)C(CC1=CC=C(C(=O)O)C=C1)=O | C15H11FO3
